US07560558B2
Compound 302: 4-(5-Chloro-7-methyl-quinolin-6-yloxy)-6,7-dimethoxy-quinoline
5-Bromo-6-hydroxy-7-methyl-quinoline (110 mg), 4-chloro-6,7-dimethoxyquinoline (330 mg), and 4-dimethylaminopyridine (240 mg) were suspended in o-dichlorobenzene (10 ml), and the mixture was stirred at 140° C. for 6 hr. The reaction solution was cooled to room temperature, and the solvent was removed therefrom by distillation under the reduced pressure. The residue was purified by thin layer chromatography using acetone-chloroform to give the title compound (19 mg, yield 10%).

reactant | 5-Bromo-6-hydroxy-7-methyl-quinoline | 110 mg | BrC1=C2C=CC=NC2=CC(=C1O)C | C10H8BrNO
reactant | 4-chloro-6,7-dimethoxyquinoline | 330 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | o-dichlorobenzene | 10 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | 4-dimethylaminopyridine | 240 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-(5-Chloro-7-methyl-quinolin-6-yloxy)-6,7-dimethoxy-quinoline | 19 mg, yield 10% | ClC1=C2C=CC=NC2=CC(=C1OC1=CC=NC2=CC(=C(C=C12)OC)OC)C | C21H17ClN2O3
